US06110934
4-n-Butyl-2-methoxy-5-chlorobenzoic Acid
4-n-Butyl-2-methoxybenzoic acid (0.5 g; 2.9 mmol) and N-chloromorpholine (356 mg; 2.9 mmol) were treated in a similar manner to that described in Preparation 24 to give the title compound as a white soid (0.4 g).

reactant | 4-n-Butyl-2-methoxybenzoic acid | 2.9 mmol, 0.5 g | C(CCC)C1=CC(=C(C(=O)O)C=C1)OC | C12H16O3
reactant | N-chloromorpholine | 2.9 mmol, 356 mg | ClN1CCOCC1 | C4H8ClNO
product | 4-n-Butyl-2-methoxy-5-chlorobenzoic Acid | C(CCC)C1=CC(=C(C(=O)O)C=C1Cl)OC | C12H15ClO3
